US07012075B2
To methyl (2S)-2-[(4-bromobenzyl)amino]-4-methylpentanoate (2.198 g, 7.0 mmol) in MeOH (30 mL) was added an aqueous solution of LiOH (2 M, 17.5 mL, 35 mmol) and the reaction was stirred overnight. The reaction was neutralized with aqueous 10% HCl (pH of 6–7) and the product crystallized out of solution and was filtered and dried in vacuo to afford (2S)-2-[(4-bromobenzyl)amino]-4-methylpentanoic acid.

reactant | methyl (2S)-2-[(4-bromobenzyl)amino]-4-methylpentanoate | 7.0 mmol, 2.198 g | BrC1=CC=C(CN[C@H](C(=O)OC)CC(C)C)C=C1 | C14H20BrNO2
reactant | LiOH | 35 mmol, 2 M, 17.5 mL | [Li+].[OH-]
reactant | HCl | pH of 6–7 | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | (2S)-2-[(4-bromobenzyl)amino]-4-methylpentanoic acid | BrC1=CC=C(CN[C@H](C(=O)O)CC(C)C)C=C1 | C13H18BrNO2
